US08389526B2
5-Bromo-6-fluoro-1-methyl-1H-indazole (v)
To a suspension of NaH (8.84 g, 221 mmol) in THF (50 mL) was added dropwise a solution of 5-bromo-6-fluoro-1H-indazole (CAS 105391-70-6, 44.1 g, 201 mmol) in THF (200 mL) at 5° C. After 15 min at 5° C., Mel (31.7 mL, 221 mmol) was added at 5° C. and the RM was stirred between 0° C. and 5° C. for 1.5 h. The reaction was quenched with 0.5 M HCl and extracted with EtOAc. The organic phases were combined, washed with brine, dried over Na2SO4 and evaporated under vacuo. The 2 isomers formed were separated by MPLC with heptane and EtOAc to afford the title compound as a yellow solid (tR 5.07 min (conditions 1), NMR in DMSO-d6: 8.14 (d, 1H); 8.04 (s, 1H); 7.79 (d, 1H); 4.00 (s, 3H)).

reactant | NaH | 221 mmol, 8.84 g | [H-].[Na+]
reactant | 5-bromo-6-fluoro-1H-indazole | 201 mmol, 44.1 g | BrC=1C=C2C=NNC2=CC1F | C7H4BrFN2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-Bromo-6-fluoro-1-methyl-1H-indazole | BrC=1C=C2C=NN(C2=CC1F)C | C8H6BrFN2
